US06469065B1
16a. 2-{2-[N-(2-methyl-2-sulfanylpropyl)carbamoyl]phenyl}benzoic Acid
To an ice-cooled suspension of 1-amino-2-methyl-2-propanethiol hydrochloride (1.08 g, 7.62 mmol) in methylene chloride (20 mL) was added triethylamine (1.2 mL, 8.61 mmol) followed by dibenzo[c,e]oxepin-5,7-dione (1.68 g, 7.42 mmol). After stirring at room temperature for 1 h, cold 2 N HCl (50 mL) was added. After separation, the aqueous layer was extracted with dichloromethane (2×15 mL). The combined organic layers were washed with brine and dried under sodium sulfate. The solvent was removed and the resulting residue was triturated with hexane to give the title compound as white solid (2.44 g, 98.9%). mp 150-153° C.; 1H NMR (CDCl3, 300 MHz): δ1.03 (s, 3H), 1.12 (s, 3H), 1.36 (s, 1H), 3.15 (dd, J=13.7 and 5.7 Hz, 1H), 3.38 (dd, J=13.7 and 6.9 Hz, 1H), 6.92 (t, J=6.1 Hz, 1H), 7.09-7.17 (m 2H), 7.38-7.48 (m, 4H), 7.57-7.61 (m, 1H), 7.80-7.83 (m, 1H); 13C NMR (CDCl3, 75 MHz,): δ29.36, 29.75, 44.66, 53.01, 127.28, 127.96, 128.04, 129.38, 129.93, 130.06, 130.20, 131.19, 132.02, 134.69, 138.90, 140.11, 170.99, 171.24; LCMS (m/e): 330 (M+1).

reactant | 1-amino-2-methyl-2-propanethiol hydrochloride | 7.62 mmol, 1.08 g | Cl.NCC(C)(S)C
reactant | triethylamine | 8.61 mmol, 1.2 mL | C(C)N(CC)CC | C6H15N
reactant | dibenzo[c,e]oxepin-5,7-dione | 7.42 mmol, 1.68 g | C1=CC=CC=2C(OC(C3=C(C21)C=CC=C3)=O)=O | C14H8O3
reactant | HCl | 2 N, 50 mL | Cl | ClH
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-{2-[N-(2-methyl-2-sulfanylpropyl)carbamoyl]phenyl}benzoic Acid | 2.44 g, 98.9% | CC(CNC(=O)C1=C(C=CC=C1)C1=C(C(=O)O)C=CC=C1)(C)S | C18H19NO3S
